US09261780B2
Under a nitrogen atmosphere, 50 mL of dehydrated THF, 4.63 g (45.8 mmol) of triethylamine and 466 mg (3.82 mmol) of dimethylaminopyridine were added to 6.27 g (38.2 mmol) of the ethyl 2-fluoro-3-hydroxypentanoate at a room temperature. Thereafter, 4.39 g (42.0 mmol) of methacrylic acid chloride was added dropwise over 10 min, and then the mixture was stirred for 2 hrs. After disappearance of the raw material was confirmed by thin layer chromatography (TLC), an aqueous sodium bicarbonate solution was added to stop the reaction. Thereafter, ethyl acetate was added to the reaction liquid and extraction was carried out three times. The organic layer thus obtained was washed with water and saturated brine each once, and dried by adding anhydrous sodium sulfate. Thereafter, the product obtained by distilling off the solvent under a reduced pressure was purified by column chromatography to give 6.38 g (yield: 60%) of ethyl 2-fluoro-3-(methacryloyloxy)pentanoate represented by the following formula.

reactant | triethylamine | 45.8 mmol, 4.63 g | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 3.82 mmol, 466 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | ethyl 2-fluoro-3-hydroxypentanoate | 38.2 mmol, 6.27 g | FC(C(=O)OCC)C(CC)O | C7H13FO3
reactant | methacrylic acid chloride | 42.0 mmol, 4.39 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | ethyl 2-fluoro-3-(methacryloyloxy)pentanoate | 6.38 g, yield: 60% | FC(C(=O)OCC)C(CC)OC(C(=C)C)=O | C11H17FO4
